US06914074B2
2-Methoxy-7-(3-methoxyphenyl)naphthalene
The title compound was prepared by reacting 7-methoxy-2-naphthyl trifluoromethanesulfonate (2.20 g, 7.18 mmol) with 3-methoxyphenylboronic acid (1.20 g, 7.90 (mmol) according to method A above to yield a white solid: mp 58-59° C.;1H NMR (CDCl3): δ 3.89 (3H, s), 3.93 (3H, s), 6.91-6.94 (1H, m), 7.15 (1H, dd, J=2.42 Hz, J=8.83 Hz), 7.19H, d, J=2.27 Hz), 7.23-7.25 (1H, m), 7.28-7.31 (1H, m), 7.37-7.42 (1H, m), 7.59 (1H, dd, J=1.56 Hz, J=8.46 Hz), 7.75 (1H, d, J=8.84 Hz), 7.83 (1H, d, J=8.45 Hz), 7.94 (s1H, s); MS (ESI) m/z265 (M+H)−.

reactant | 7-methoxy-2-naphthyl trifluoromethanesulfonate | 7.18 mmol, 2.20 g | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC)(F)F | C12H9F3O4S
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 2-Methoxy-7-(3-methoxyphenyl)naphthalene | COC1=CC2=CC(=CC=C2C=C1)C1=CC(=CC=C1)OC | C18H16O2
